US07855216B2
Step 3: 1-Cyclopropyl-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester
To a degassed suspension of 3-amino-1-cyclopropyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester (215.0 mg, 0.93 mmol), and trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester (323.5 mg, 1.02 mmol, 1.1 eq) in anhydrous toluene (6.2 mL) was added Pd2dba3 (85.2 mg, 0.09 mmol, 0.1 eq), Xantphos (107.6 mg, 0.186 mmol, 0.2 eq) and Cs2CO3 (606.0 mg, 1.86 mmol, 2.0 eq). The reaction mixture was degassed with bubbling nitrogen for 10 minutes and stirred at 105° C. under N2 for 17 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate (150 ml). The mixture was then filtered through a pad of Celite®. The celite pad was rinsed with EtOAc (2×50 mL), and the filtrate was concentrated under reduced pressure. The crude residue was then purified by flash column chromatography (silica, ISCO, 45 mL/min, 25 to 100% EtOAc in hexane) to afford the title compound as a yellow foam (265 mg, 71.7%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.52 (s, 1H), 8.33 (d, J=6.0 Hz, 1H), 7.86 (s, 1H), 7.55 (d, J=6.0 Hz, 1H), 7.29 (d, J=11.6 Hz, 1H), 7.13 (d, J=7.9 Hz, 1H), 6.90 (s, 1H), 3.82 (s, 3H), 3.57-3.46 (m, 1H), 1.27-1.03 (m, 2H), 0.96-0.71 (m, 2H), 0.23 (s, 9H); LC-MS (method D): [M+H]+=398.2, RT=2.69 min.

reactant | 3-amino-1-cyclopropyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester | 0.93 mmol, 215.0 mg | COC(=O)C1=C(C=2C=NC=CC2N1C1CC1)N | C12H13N3O2
reactant | trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester | 1.02 mmol, 323.5 mg, 1.1 eq | FC1=C(C=CC(=C1)[Si](C)(C)C)OS(=O)(=O)C(F)(F)F | C10H12F4O3SSi
reactant | Xantphos | 0.186 mmol, 107.6 mg, 0.2 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 1.86 mmol, 606.0 mg, 2.0 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 6.2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.09 mmol, 85.2 mg, 0.1 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-Cyclopropyl-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester | 265 mg, 71.7% | COC(=O)C1=C(C=2C=NC=CC2N1C1CC1)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C21H24FN3O2Si
